data/oMe_Silver.jsonl
{"reaction_id": "NR-324_1-c1ccc(C(F)(F)F)cc1_2-CC_3-OC_4-C_5-c1ccccc1","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(CC)=C(OC)C(C)c1ccccc1","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccc(C(F)(F)F)cc1C(CC)=C(OC)C(C)(c1ccccc1)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(CC)=C(OC)[C](C)c1ccccc1","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(CC)=C(OC)C(C)(c1ccccc1)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
{"reaction_id": "NR-226_1-C_2-C_3-c2ccc(N(C)C)cc2","level": "medium","name": "Polonovski-Potier Reaction","reactants_smiles": ["O=C(C(F)(F)F)OC(=O)C(F)(F)F","C1CCC[N+]([O-])(C(C)(C)(c2ccc(N(C)C)cc2))C1"],"products_smiles": ["C1CCC[N+](C(C)(C)(c2ccc(N(C)C)cc2))=C1"],"conditions": "TFAA","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCC[N+]([O]C([O-])(C(F)(F)F)OC(=O)C(F)(F)F)(C(C)(C)(c2ccc(N(C)C)cc2))C1","step_weight": 0,"rationale": "The N-oxide oxygen acts as a nucleophile toward the highly electrophilic carbonyl of TFAA, driven by strong electron withdrawal from CF3 groups, forming an activated intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCC[N+]([O]C(=O)C(F)(F)F)(C(C)(C)(c2ccc(N(C)C)cc2))C1","step_weight": 0,"rationale": "The trifluoroacetate anion is an excellent leaving group due to resonance and inductive stabilization by CF3, enabling elimination to form the iminium intermediate."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1CCC[N+](C(C)(C)(c2ccc(N(C)C)cc2))=C1","step_weight": 0,"rationale": "Base-assisted deprotonation adjacent to the iminium center is favored, as it restores conjugation and yields the thermodynamically stable alkene product."}],"description": "In the Polonovski-Potier reaction under TFAA activation, the N-oxide oxygen attacks the electrophilic anhydride, forming an activated intermediate. The trifluoroacetate group facilitates leaving group departure, generating an iminium species, which then undergoes deprotonation to yield the alkene product."}
